US08957074B2
To a suspension of 2-chloro-7-cyclopentyl-N,N-dimethyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide (5.0 g, 17 mmol) in 1,4-dioxane (80 mL) in a sealed tube were added methyl 6-aminonicotinate (2.86 g, 1.10 eq), Pd(OAc)2 (0.096 g, 0.025 eq) and BINAP (0.532 g, 0.050 eq). N2 was bubbled through the resulting mixture for 20 min to degas and treated with Cs2CO3 (8.35 g, 1.5 eq). The reaction mixture was heated at 100° C. for 2.2 h. The reaction mixture was cooled to room temperature, treated with 100 mL of heptane and sonicated. Red precipitate was collected by filtration and suspended in 200 mL of water. After sonication, the solid was collected by filtration, rinsed with water (3×50 mL) and dried. The solid was triturated in THF to obtain tan solid methyl 6-(7-cyclopentyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)nicotinate (6.6 g, 94% yield). The filtrated was concentrated in vacuo and purified by column chromatography (Ethyl acetate/Heptane) to give additional product (0.4 g, 6% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.33 (s, 1H), 8.89 (s, 1H), 8.83 (d, J=2.1 Hz, 1H), 8.44 (d, J=8.9 Hz, 1H), 8.22 (dd, J=8.9, 2.2 Hz, 1H), 6.67 (s, 1H), 4.77 (m, 1H), 3.86 (s, 3H), 3.06 (s, 6H), 2.42 (m, 2H), 2.00 (m, 4H), 1.68 (m, 2H); MS m/z 409.4 (M+H)+.

reactant | 2-chloro-7-cyclopentyl-N,N-dimethyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide | 17 mmol, 5.0 g | ClC=1N=CC2=C(N1)N(C(=C2)C(=O)N(C)C)C2CCCC2 | C14H17ClN4O
reactant | methyl 6-aminonicotinate | 2.86 g, 1.10 eq | NC1=NC=C(C(=O)OC)C=C1 | C7H8N2O2
reactant | Cs2CO3 | 8.35 g, 1.5 eq | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | heptane | 100 mL | CCCCCCC | C7H16
solvent | 1,4-dioxane | 80 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.096 g, 0.025 eq | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | BINAP | 0.532 g, 0.050 eq | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
product | methyl 6-(7-cyclopentyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)nicotinate | 6.6 g, 94% yield | C1(CCCC1)N1C(=CC2=C1N=C(N=C2)NC2=NC=C(C(=O)OC)C=C2)C(N(C)C)=O | C21H24N6O3
